US07390904B2
Bis[1-(2-methyl-2-phenylpropyloxy)-2,2,6,6-tetramethylpiperidin-4-yl] adipate
The title compound is prepared from the reaction of bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) adipate, aqueous hydrogen peroxide, ferric chloride hexahydrate; acetonitrile, and tert-butylbenzene following a procedure similar to that of Example 6.

reactant | bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) adipate | C(CCCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C24H44N2O6
reactant | hydrogen peroxide | OO | H2O2
reactant | tert-butylbenzene | C(C)(C)(C)C1=CC=CC=C1 | C10H14
solvent | acetonitrile | C(C)#N | C2H3N
product | Bis[1-(2-methyl-2-phenylpropyloxy)-2,2,6,6-tetramethylpiperidin-4-yl] adipate | C(CCCCC(=O)OC1CC(N(C(C1)(C)C)OCC(C)(C1=CC=CC=C1)C)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCC(C)(C1=CC=CC=C1)C)(C)C | C44H68N2O6
